US07282588B2
1,1-dimethylethyl 4-[4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate
A solution of 1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate (0.46 mmol) in ethyl acetate (5 mL) was purged with nitrogen and palladium(II) hydroxide/Carbon (30 mg of 20 wt. % palladium) added. The reaction was purged with hydrogen gas and allowed to stir vigorously under 1 atm of hydrogen. After 16 h, the reaction was purged with nitrogen and filtered though a pad of Celite (rinsing with ethyl acetate). The filtrate was concentrated under reduced pressure to give the title compound as a yellow foam which was used without further purification. ESMS [M+H]+: 625.6

reactant | 1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1 (2H)-pyridinecarboxylate | 0.46 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C34H34N6O6S
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) hydroxide Carbon | 30 mg | [OH-].[Pd+2].[OH-].[C]
product | 1,1-dimethylethyl 4-[4-[3-(4-aminophenyl)-1-ethyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)CC | C34H36N6O4S
